US07863291B2
To 6-fluoro-3-isothiocyanato-1H-indazole (0.20 g, 1.04 mmol) in DMF (15 mL) was added triethylamine (0.43 mL, 3.11 mmol) and (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.26 g, 1.14 mmol) at room temperature. The reaction was stirred at 70° C. for 2 hours. The reaction was cooled to room temperature and treated with N,N′-diisopropylcarbodiimide (0.48 mL, 3.11 mmol). The reaction was then heated to 70° C. for 2 hours. The reaction was cooled to ambient temperature and concentrated. The crude product was purified by column chromatography (85% chloroform, 14% methanol, 1% ammonium hydroxide) to afford (R)—N-(6-fluoro-1H-indazol-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.22 g, 0.66 mmol, 64% yield) as a white powder. 1H NMR (500 MHz, DMSO-D6) δ ppm 12.16 (s, 1 H), 8.00 (s, 1 H), 7.59-7.67 (m, 1H), 7.09 (dd, J=9.77, 2.14 Hz, 1 H), 6.81-6.88 (m, 1 H), 3.81 (d, J=9.16 Hz, 1 H), 3.56 (d, J=8.85 Hz, 1 H), 3.00 (s, 2 H), 2.78 (s, 2 H), 2.67 (t, J=7.32 Hz, 2 H), 2.01 (d, J=2.44 Hz, 1 H), 1.92 (s, 1 H), 1.59 (d, J=5.80 Hz, 2 H), 1.46 (s, 1 H). MS (LC/MS) R.T.=1.44; [M+H]+=316.16.

reactant | 6-fluoro-3-isothiocyanato-1H-indazole | 1.04 mmol, 0.20 g | FC1=CC=C2C(=NNC2=C1)N=C=S | C8H4FN3S
reactant | triethylamine | 3.11 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 1.14 mmol, 0.26 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | N,N′-diisopropylcarbodiimide | 3.11 mmol, 0.48 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (R)—N-(6-fluoro-1H-indazol-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.66 mmol, 0.22 g, 64% yield | FC1=CC=C2C(=NNC2=C1)NC=1O[C@]2(CN3CCC2CC3)CN1 | C16H18FN5O
